US05951914
(2) Preparation of 4-acetoxy-2-fluoro-1-(1-methylbutyloxycarbonyl)benzene
Thionyl chloride in an amount of 60 ml was added to 10.8 g (0.06 mol) of 4-acetoxy-2-fluoro-benzoic acid, and the mixture was allowed to react under reflux for 7 hours. Then, excessive thionyl chloride was distilled off, and then 10 ml of pyridine and 3.5 g (0.0402 mol) of 2-pentanol were dropwise added.

reactant | Thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 4-acetoxy-2-fluoro-benzoic acid | 0.06 mol, 10.8 g | C(C)(=O)OC1=CC(=C(C(=O)O)C=C1)F | C9H7FO4
reactant | 2-pentanol | 0.0402 mol, 3.5 g | CC(CCC)O | C5H12O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4-acetoxy-2-fluoro-1-(1-methylbutyloxycarbonyl)benzene | C(C)(=O)OC1=CC(=C(C=C1)C(=O)OC(CCC)C)F | C14H17FO4
